US06891066B2
Step D: Preparation of 3,4-difluoro-2-[[2-fluoro-4-(methylthio)phenyl]amino]-N-(2-hydroxyethoxy)benzamide
The title compound was prepared from reaction of the product of Example 26, Step C, 3,4-difluoro-2-[[2-fluoro-4-(methylthio)phenyl]amino]benzoic acid, with CDI and 2-(aminooxy)ethanol by the general procedure of Example 1, Step E. Then, after workup, the crude solid triturated with Et2O and washed with pentane to afford 3,4-difluoro-2-[[2-fluoro-4-(methylthio)phenyl]amino]-N-(2-hydroxyethoxy)benzamide as a white solid (80%); m.p. (Et2O) 108-111° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.80 (br s, 1 H), 8.77 (br s, 1 H), 7.40 (ddd, J=9.0, 5.8, 2.0 Hz, 1 H), 7.18 (dd, J=12.0, 2.2 Hz, 1 H), 7.13 (ddd, J=9.9, 9.0, 7.2 Hz, 1 H), 6.99 (ddd, J=8.5, 2.4, 0.8 Hz, 1 H), 6.87 (td, J=8.9, 4.5 Hz, 1 H), 4.71 (br s, 1 H), 3.86 (t, J=4.9 Hz, 2 H), 3.57 (t, J=4.9 Hz, 2 H), 2.45 (s, 3 H). Anal. Calcd for C16H15F3N2O3S: C, 51.6; H, 4.1; N, 7.5. Found: C, 52.1; H, 4.3; N, 7.6.

reactant | 3,4-difluoro-2-[[2-fluoro-4-(methylthio)phenyl]amino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)SC)F | C14H10F3NO2S
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
product | 3,4-difluoro-2-[[2-fluoro-4-(methylthio)phenyl]amino]-N-(2-hydroxyethoxy)benzamide | 80% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)SC)F | C16H15F3N2O3S
